Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Amitriptyline / Norvasc
 
Attending: ___.
 
Chief Complaint:
Fall ___ secondary to neuropathic pain
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
This is a ___ year old man with multiple medical problems 
including afib with RVR, diabetes complicated by neuropathy 
requiring wheelchair for mobility, and long-standing alcohol 
abuse, who comes in with afib with RVR recently s/p fall. He 
fell in the bathroom while trying to transfer from his 
wheelchair. He says that his right hand and his left leg, which 
are affected by this neuropathy, gave way on him. He denies LOC 
or head impact. Pt denies concurrent illness. 

He reports that he has had 3 drinks in last 24 hrs which is 
typical for him. He was brought in by ambulance, and had a 
systolic BP in the ___ in the setting of afib w RVR; after 
getting 400 cc NS in the field, he was not hypotensive once 
arriving in the emergency department.  
.  
In the ED, initial vs were: 97.1, 84, 96/64, 16, 98%RA. However 
his rate was in the 140s for much of the time he was initially 
in the ED, and eventually received 15 mg of IV diltiazem and his 
rate converted to sinus rhythm per report; BP was recorded as 
142/98 at time of infusion of dilt. He got a 500 NS bolus and 
ultimately 2L NS w a total of 1000cc of urine output in the ED. 
Thiamine, MVI and folate were given.  
.  
Because of a concern of ?pneumonia on his CXR, he received 
levofloxacin 750 mg IV in the ED as well. Of note he had a 
lactate of 3.0.  
.  
On arrival to the floor, initial vs were: 99.8 122/68 80 18 98%. 
The patient felt well and did not complain of palpitations,CP, 
SOB, abd pain.   
.  
ROS: he denies any recent illness, fever, chills, shakes, 
nausea, vomiting, diarrhea, SOB, chest pain, palpitations  
.  

 
Past Medical History:
HTN  
CAD s/p MI x 4 (per pt 3 in 1 week)  
DM  
Hypercholesterolemia  
ICH  
Diabetes - w/neuropathy; uses wheelchair mostly, attempts 
transfer with walker but has fallen more recently  
PVD -- sees Dr. ___  
___ aflutter/a tach  
Colon Ca -- s/p partial colectomy ___, no rad or chemo; on ___  
yr follow-up schedule now -- due ___.  
Neuropathy -- progressing to R arm now; legs unchanged, uses  
Wt Loss -- ___ years  
Spinal Stenosis -- MRI done ___, no emergent issues, but  
some retrolisthesis of L4-5.  

 
Social History:
___
Family History:
no family hx of heart disease. Both parents died at ___ of "old 
age."  
 
Physical Exam:
VS: 99.8 122/68 80 18 98%  
GEN: Blanket drawn up around his neck, speaking slowly w slight 
slurring, faint smell of EtOH  
HEENT: PERRLA. EOMI. MM dry. No scleral icterus.  
Cor: irreg irreg w no m/r/g  
Pulm: CTAB no egophony  
Abd: soft, nt, nd  
Extrem: wwp, no edema  
Skin: no angiomas or varicosities, no other lesions in limited 
exam  
Neuro: A&Ox3. Attentive and appropriate on interview. 
 
Pertinent Results:
___ 08:15PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 05:38PM   LACTATE-3.0* K+-3.6
___ 05:20PM   GLUCOSE-140* UREA N-6 CREAT-0.6 SODIUM-133 
POTASSIUM-3.7 CHLORIDE-98 TOTAL CO2-23 ANION GAP-16
___ 05:20PM   CK(CPK)-34*
___ 05:20PM   cTropnT-<0.01
___ 05:20PM   CK-MB-NotDone
___ 05:20PM   CALCIUM-8.7 PHOSPHATE-3.8 MAGNESIUM-1.7
___ 05:20PM   ___
___ 05:20PM   WBC-5.0 RBC-3.59* HGB-11.6* HCT-33.7* MCV-94 
MCH-32.4* MCHC-34.5 RDW-15.2
___ 05:20PM   NEUTS-56.7 ___ MONOS-4.9 EOS-0.9 
BASOS-0.4
.
___ 03:40PM   UREA N-8 CREAT-0.6 SODIUM-133 POTASSIUM-4.2 
CHLORIDE-95* TOTAL CO2-23 ANION GAP-19
___ 03:40PM   TOT PROT-6.5 IRON-57
___ 03:40PM   VIT B12-494 FOLATE-GREATER TH HAPTOGLOB-150 
FERRITIN-25*
___ 03:40PM   WBC-5.3 RBC-3.90* HGB-12.7* HCT-37.2* MCV-95 
MCH-32.5* MCHC-34.0 RDW-14.9
___ 03:40PM   NEUTS-59.1 ___ MONOS-6.5 EOS-1.1 
BASOS-0.8
___ 03:40PM   PLT COUNT-308
___ 03:40PM   SED RATE-9
.
On discharge:
WBC 5.9
HCT 30.8
Plt 228
.
Studies:
CXR (___): Hazy opacity in the left lung base likely due to 
atelectasis 
given low lung volumes and elevation of left hemidiaphragm 
however an early developing pneumonia cannot be entirely 
excluded. 
.
CXR (___): Compared to the prior study there is improved 
aeration in the left lower lobe but there continues to be a 
small patchy area of increased hazy opacity that could represent 
an area of atelectasis versus a very early infiltrate. This has 
an improved appearance compared to the earlier study. A small 
area of scarring versus atelectasis is seen in the left apex. 
 
Brief Hospital Course:
A/P: Pt is a ___ year old man with a history of multiple medical 
problems including a variety of superventricular tachycardias 
including afib/flutter as well as atrial tach, s/p ablation in 
___ and diabetes; as well as alcohol abuse; who presents after 
a fall with known mechanism with afib, RVR and hypotension in 
the field, as well as a lactate of 3.0 and an ambiguous opacity 
on CXR.  
.  
1) Tachycardia: On transfer to this hospital and in the ED, 
patient was in A fib with RVR with rates in the 140s on arrival. 
A total of 15 mg of IV diltiazem was given in the ED, with quick 
return to sinus rhythm and HR 70'-80s. During his admisison, 
telemetry showed predominantly a sinus rhythm with HR 60-80's, 
with some intermittent irregularity.  He had one self-limited 
episode of tachycardia to the 140s prior to getting his morning 
BB dose.  The resolved spontaneously and he remained stable 
throughout.  Etiology of original episode was felt to be likely 
ETOH & dehydration.  There was no evidence of infection on CXR 
and blood cx were NGTD.  
.  
2) Hypotension: On tranfer to this hospital and in the ED, 
patient had a systolic BP in the 60's. This was felt to be in 
the setting of RVR and poor forward flow.  He repsonded rapidly 
to fluid resusictation and conversion to NSR. Lactate in the ED 
was elevated to 3.0 which was concerning for infection, however 
there were no focal signs of infection. WBC was 6.6, UA 
negative, CXR x2 was negative.  CXR in the ED was read as 
concern for pneumonia and he received 750mg IV Levo.  On the 
floor his exam was not consistent with pneumonia and antibiotics 
were discontinued. He remained afebrile throughout his stay.  
.  
3) CAD: We continued his home meds: lip___ 40 ___, metoprolol 50 
PO bid, plavix 75 ___ 325 ___.  He was ruled out for MI by 
serial CE which were all negative.
.
4) Alcohol abuse: BAL on arrival >200. Patient was maintained on 
the CIWA scale, but no benzodiazapine were required as CIWA were 
always <10 and there was no other evidence of withdrawal. 
Alcohol cessation was discussed.  He was maintained on thiamine, 
folate while in the hospital.
. 
5) Endocrine: Patient has a long history of diabetes. Had some 
borderline low FSBG (54) when he first arrived on the floor.  
This responded to PO intake and they remained stable thereafter. 
 He was continued on his home regimen of novolog mix 70/30 and 
sliding scale.
.    
6)Psych: Home SSRI (duloxetine 30 mg ___ was continued without 
issues.
.
7)Disposition: Patient was seen by physical therapy who 
concluded that a likely cause of his repeated falls is the 
inability of his wheelchair to transverse his bathroom door 
requiring him to take several steps to the toilet. A new 
wheelchair with removable arms was given to the patient while in 
house. This should allow him to enter his bathroom, and transfer 
from the chair directly to the toilet. 

.  

 
Medications on Admission:
ATORVASTATIN [LIPITOR] - 40 mg Tablet - 1 Tablet(s) by mouth 
once a day  
CLOPIDOGREL [PLAVIX] - 75 mg Tablet - 1 Tablet(s) by mouth once 
a day  
DULOXETINE [CYMBALTA] - - 30 mg Capsule, Delayed Release(E.C.) - 
1 Capsule(s) by mouth once a day  
FOLIC ACID - 1 mg Tablet - 1 Tablet(s) by mouth once a day  
INSULIN ASP PRT-INSULIN ASPART [NOVOLOG MIX 70-30] - 100 unit/mL 
(70-30) Solution - 14 units in a.m., 4 units in evening  
METOPROLOL SUCCINATE [TOPROL XL] - 100 mg Tablet Sustained 
Release 24 hr - 1 Tablet(s) by mouth twice a day  

 
Discharge Medications:
1. Metoprolol Tartrate 50 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).
Disp:*60 Tablet(s)* Refills:*2*
2. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
3. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
4. Duloxetine 30 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).
Disp:*30 Capsule, Delayed Release(E.C.)(s)* Refills:*2*
5. Atorvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
6. Medical equipment
Wheelchair with removable armrests

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Fall (mechanical)
Atrial fibrillation with rapid ventricular response
Hypotension

 
Discharge Condition:
Stable. 

 
Discharge Instructions:
You were admitted to this hopsital because of a fall that was 
likley due to weakness from longstanding peripheral neuropathy. 
While here, you were noted to have atrial fibrillation with a 
rapid heart rate, which was treated with IV and oral medications 
known as beta blokers. You also had a low blood pressure which 
was corrected by giving you fluids.

If you experience fevers, chills, shakes, nausea, vomiting, 
diarrhea, chest pain, shortness of breath, or abdominal pain 
please call your doctor or return to the emergency room.
 
Followup Instructions:
___